US06838463B2
In 40 ml of tetrahydrofuran was suspended 4.61 g of potassium t-butoxide, to which 4.44 g of (2-fluorophenyl)acetonitrile was added under ice cooling. Then, a solution of 5.00 g of 4-chloro-6-(2-butynyloxy)pyrimidine in 20 ml of tetrahydrofuran was added at 0° C., followed by stirring at room temperature for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with chloroform. The chloroform layers were combined and washed with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 6.40 g of 4-(α-cyano-2-fluorobenzyl)-6-(2-butynyloxy)pyrimidine (the present compound (145)).

reactant | potassium t-butoxide | 4.61 g | CC(C)([O-])C.[K+]
reactant | (2-fluorophenyl)acetonitrile | 4.44 g | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 5.00 g | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(α-cyano-2-fluorobenzyl)-6-(2-butynyloxy)pyrimidine | 6.40 g | C(#N)C(C1=C(C=CC=C1)F)C1=NC=NC(=C1)OCC#CC | C16H12FN3O
